US04931463
(G)(a) 16.5 g of t-butyl [(S)-p-tolylsulfinyl]acetate were dissolved in a mixture of 600 ml of ether and 60 ml of THF and cooled to -78° C. 43 ml of t-butylmagnesium bromide were then added dropwise in such a manner that the temperature remained below -70° C. After stirring at -78° C. for 1 hour 13.4 g of (R)-3-[(tetrahydro-2H-pyran-2-yl)oxy]-tetradecanal in 100 ml of THF were added dropwise. After 2 hours at -78° C. the reaction mixture was hydrolyzed with 2N hydrochloric acid and the solvent was evaporated off. The reaction mixture remaining behind was extracted with ether and the ethereal phase was dried and evaporated. After chromatography on silica gel there were obtained 14.9 g of t-butyl 3-hydroxy-(R)-5-[(tetrahydro-2H-pyran-2-yl)oxy]-2-[(S)-p-tolylsulfinyl]-hexadecanoate (67% yield). m.p. 97°-98° C.

reactant | t-butyl [(S)-p-tolylsulfinyl]acetate | 16.5 g | C1(=CC=C(C=C1)[S@@](=O)CC(=O)OC(C)(C)C)C | C13H18O3S
reactant | t-butylmagnesium bromide | 43 ml | C(C)(C)(C)[Mg]Br
reactant | (R)-3-[(tetrahydro-2H-pyran-2-yl)oxy]-tetradecanal | 13.4 g | O1C(CCCC1)O[C@@H](CC=O)CCCCCCCCCCC | C19H36O3
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | ether | 600 ml | CCOCC | C4H10O
solvent | THF | 60 ml | C1CCOC1 | C4H8O
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | t-butyl 3-hydroxy-(R)-5-[(tetrahydro-2H-pyran-2-yl)oxy]-2-[(S)-p-tolylsulfinyl]-hexadecanoate | 14.9 g, 67% yield | OC([C@H](C(=O)OC(C)(C)C)[S@](=O)C1=CC=C(C=C1)C)CC(CCCCCCCCCCC)OC1OCCCC1 | C32H54O6S
